datasets/10k_Mayr_OG.csv
SMILES Labelled
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1>>C[S+:61](C)[CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1)[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1 10=20
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].CO[C:12]1=[C:13]([B-](F)(F)F)[S:14][CH:10]=[CH:11]1>>CC[O:50][C:22](=[CH:21][CH:20]([CH:10]1[CH:11]=[C:12](OC)[C:13]([B-](F)(F)F)=[S+:14]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O:12][C:11]2=[CH:10]CCC2)C(F)=C1F>>FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O+:12]=[C:11]2CCC[CH:10]2[C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)C(F)=C1F 10,11=10,20;12=11,12;20,21=21"
"CC[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](CC)[C:73]1=[S:74].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CC[N:82]1[C:11](=[O:12])[CH:10]([CH:20]2CC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])[C:61](=[O:62])[N:82](CC)[C:73]1=[S:74] 10,11=10,20;12=11,12;20,21=21"
"C1C[S:31][CH+:20][S:41]C1.NC1=NC=N[C:61]2=[C:62]1[N-:12][CH:11]=[N:10]2>>NC1=NC=N[C:61]2=[C:62]1[N:12]=[CH:11][N:10]2[CH:20]1[S:31]CCC[S:41]1 10,11=10,20;12=11,12"
"C1=CC=C([S:61](/[CH:10]=[C:11]2\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]2)(=[O:62])=[O:72])C=C1.COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([CH:10]([C:11]#[N:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)=[C:22]2[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].F[B-:63](F)(F)[CH2:62][CH:11]=[CH2:10]>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][B-:63](F)(F)F)[C:31]1=[O:32] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32]>>CC[O:33][C:31]([C:20]1([CH2:10][CH+:11][CH2:62][Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>C[C:84]1=[CH:83][CH:82]=[C:81]([CH:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]2[N+](=O)[O-])[S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1 10=20;20,21=21,22;22,23=23"
"COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.N[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([CH:10]3[CH:11]=[NH+:12][C:62]4=[C:61]3[CH:72]=[C:73](N)[CH:64]=[CH:63]4)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[Si:63](C)(CC)[CH2:62][C:11](C1=CC=CC=C1)(C1=CC=CC=C1)[H:10].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC[Si:63](C)(CC)[CH2:62][C+:11](C1=CC=CC=C1)C1=CC=CC=C1.Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;20,21=21"
"C1C[NH:10][CH:61]([C:62]([F:63])([F:73])[F:83])C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[CH:61]2[C:62]([F:63])([F:73])[F:83])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC[Si:11](C)(C)[H:10].N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>CC[Si+:11](C)C.N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC=C([S:71]([CH-:10][N+:61]#[C-:62])(=[O:72])=[O:82])C=C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC1=CC=C([S:71]([CH:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[N+:61]#[C-:62])(=[O:72])=[O:82])C=C1 10=20;20,21=21"
